US08685980B2
To a suspension of 5-[3-(tert-butyl-dimethyl-silanyloxy)-azetidin-1-yl]-2-nitro-pyridine (124 mg, 0.401 mmol) in 5 mL of ethanol is added iron powder (206 mg, 3.68 mmol) then 2 mL of NH4Cl solution. The resulting mixture is heated at 80° C. for 3 h and filtered through celite and concentrated. The resulting dark solid is divided between ethyl acetate and water. The aqueous phase is extracted with ethyl acetate (2×50 mL). The combine organic layers are ished with brine, dried over Na2SO4 and concentrated to give 5-[3-(tert-butyl-dimethyl-silanyloxy)-azetidin-1-yl]-pyridin-2-ylamine (105 mg, 94%).

reactant | 5-[3-(tert-butyl-dimethyl-silanyloxy)-azetidin-1-yl]-2-nitro-pyridine | 0.401 mmol, 124 mg | C(C)(C)(C)[Si](OC1CN(C1)C=1C=CC(=NC1)[N+](=O)[O-])(C)C | C14H23N3O3Si
reactant | NH4Cl | 2 mL | [NH4+].[Cl-]
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | iron | 3.68 mmol, 206 mg | [Fe] | Fe
product | 5-[3-(tert-butyl-dimethyl-silanyloxy)-azetidin-1-yl]-pyridin-2-ylamine | 105 mg, 94% | C(C)(C)(C)[Si](OC1CN(C1)C=1C=CC(=NC1)N)(C)C | C14H25N3OSi
